US06541499B1
H. N1-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-N2-[4-[2-(1-pyrrolidinyl)ethoxy]benzoyl]-1,2-benzenediamine
To a solution of N1-[4-[2-(1-pyrrolidinyl)ethoxy]-benzyl]-1,2-benzenediamine (220 mg, 0.706 mmol) in dry dichloromethane (2 mL) was added pyridine (0.114 mL, 1.41 mmol, 2.0 eq.). To the resulting solution was added a suspension of 4-[2-(1-pyrrolidinyl)ethoxy]benzoyl chloride (179 mg, 0.706 mmol, 1.0 eq.) in dry dichloromethane (3 mL), portionwise, at 0° C., following the reaction by tlc (9:1 CHCl3:MeOH, 1% TEA). Once the aniline had been consumed, the reaction was allowed to warm to ambient temperature. The reaction was quenched by the addition of saturated aqueous sodium bicarbonate solution (15 mL) then diluted with ethyl acetate (60 mL). The organic layer was washed with saturated aqueous sodium bicarbonate (15 mL), water (15 mL), brine (15 mL), dried over MgSO4, filtered then the solvent was removed under reduced pressure. The desired product was obtained after flash chromatography (eluting with 20:1 CHCl3:MeOH, 0.5% TEA) as a brown foam (361 mg, 97%).

reactant | N1-[4-[2-(1-pyrrolidinyl)ethoxy]-benzyl]-1,2-benzenediamine | 0.706 mmol, 220 mg | N1(CCCC1)CCOC1=CC=C(CNC=2C(=CC=CC2)N)C=C1 | C19H25N3O
reactant | pyridine | 1.41 mmol, 0.114 mL, 2.0 eq. | N1=CC=CC=C1 | C5H5N
reactant | 4-[2-(1-pyrrolidinyl)ethoxy]benzoyl chloride | 0.706 mmol, 179 mg, 1.0 eq. | N1(CCCC1)CCOC1=CC=C(C(=O)Cl)C=C1 | C13H16ClNO2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N1-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-N2-[4-[2-(1-pyrrolidinyl)ethoxy]benzoyl]-1,2-benzenediamine | N1(CCCC1)CCOC1=CC=C(CNC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OCCN2CCCC2)=O)C=C1 | C32H40N4O3
